US07618982B2
(4-Oxo-2-pyridin-4-yl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-6-ylmethyl)-carbamic acid tert-butyl ester
A solution of Me3P in THF (1M, 0.15 mmol, 0.150 mL) was added to a stirred mixture of 6-azidomethyl-2-pyridin-4-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (0.075 mmol, 20 mg) in THF (1 mL) and NaOH (1M, 0.165 mmol, 0.165 mL) at r.t.; a solution of Boc2O (0.165 mmol, 36 mg) in THF/H2O (1 mL) was then added. After 2 days the mixture was quenched by addition of a phosphate buffer solution (pH7). Extraction with CH2Cl2, drying of the organic extracts, removal of the solvent and titration with CH2Cl2/hexane afforded the title compound, 16 mg.

reactant | Me3P | P(C)(C)C | C3H9P
reactant | 6-azidomethyl-2-pyridin-4-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 0.075 mmol, 20 mg | N(=[N+]=[N-])CC1CC2=C(C(N1)=O)C=C(N2)C2=CC=NC=C2 | C13H12N6O
reactant | NaOH | 0.165 mmol, 1M, 0.165 mL | [OH-].[Na+]
reactant | Boc2O | 0.165 mmol, 36 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF H2O | 1 mL | C1CCOC1.O
solvent | THF | 0.15 mmol, 1M, 0.150 mL | C1CCOC1 | C4H8O
product | (4-Oxo-2-pyridin-4-yl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-6-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CC2=C(C(N1)=O)C=C(N2)C2=CC=NC=C2)=O | C18H22N4O3
